Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
mechanical fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo F had a mechanical fall from standing earlier this
morning.  Initially evaluated in outside hospital and then was
transferred due to multiple facial fractures.  Neurosurgery and
plastic surgery following.  Reports headache no other complaints
she recently has had a urinary tract infection otherwise has 
been
her baseline state of health.  Reports no loss of consciousness
at the time of the fall.
 
Past Medical History:
Past Medical History:
 
Afib, on Pradaxa
Dementia
Hypertension
Occasional tremor
Urinary tract infection                                          


Past Surgical History:
Appendectomy age ___
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
Admission Physical Exam:
Vitals: 98.7°F 92 bpm ___ 98% on room air
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nondistended, nontender, no rebound or guarding,
normoactive bowel sounds, no palpable masses
DRE: normal tone, no gross or occult blood
Ext: No ___ edema, ___ warm and well perfused

Discharge Physical Exam:
VS: 98.3, 118 / 79, 83, 18, 96 Ra 
Gen: A&O x3, forgetful. Place: Knows she is in hospital, in 
___. Time: knows early ___. 
HEENT: mild left sided facial swelling and ecchymosis. 
Periorbital ecchymosis. Left conjunctival hemorrhage.
Pulm: LS ctab/ mid left lateral chest mildly TTP 
CV: HRR
Abd: soft, NT/ND
Ext: No edema

 
Pertinent Results:
___ 06:33AM BLOOD WBC-9.1 RBC-4.29 Hgb-13.2 Hct-40.9 MCV-95 
MCH-30.8 MCHC-32.3 RDW-13.3 RDWSD-46.3 Plt ___
___ 05:07PM BLOOD WBC-11.8* RBC-4.37 Hgb-13.4 Hct-41.5 
MCV-95 MCH-30.7 MCHC-32.3 RDW-13.3 RDWSD-46.4* Plt ___
___ 07:05PM BLOOD WBC-13.3* RBC-4.51 Hgb-13.7 Hct-42.3 
MCV-94 MCH-30.4 MCHC-32.4 RDW-13.2 RDWSD-44.8 Plt ___
___ 06:33AM BLOOD Glucose-106* UreaN-13 Creat-0.8 Na-142 
K-4.2 Cl-101 HCO3-26 AnGap-15
___ 05:07PM BLOOD Glucose-125* UreaN-17 Creat-0.9 Na-140 
K-4.3 Cl-101 HCO3-26 AnGap-13
___ 07:05PM BLOOD Glucose-124* UreaN-21* Creat-0.8 Na-139 
K-4.3 Cl-98 HCO3-21* AnGap-20*
___ 06:33AM BLOOD Calcium-9.2 Phos-2.8 Mg-1.8
___ 07:05PM BLOOD Calcium-9.3 Phos-3.5 Mg-1.9

Imaging:
X-ray pelvis no acute fracture
X-ray chest no acute processes
X-ray left shoulder no acute abnormalities
X-ray left humerus no acute abnormalities
CT head impression 1.  Subdural hematoma measuring up to 0.3 cm
in thickness in the left anterior temporal fossa and small
subarachnoid hemorrhage along the inferior surface of the 
frontal
lobe in the anterior left sylvian fissure.  2.  Left zygomatic
maxillary complex fracture involving the left infraorbital canal
orbital floor.
3.  Cervical spondylosis without fracture
CT head: 1. A previously seen small subdural hematoma layering
along the anterior left temporal lobe is no longer visualized,
however there is a new small amount of blood layering in the 
left
lateral ventricle.
2. Small amount of left subarachnoid hemorrhage is less
conspicuous compared with prior.
3. Multiple facial fractures are better evaluated on CT facial
bones performed earlier on same day.

___. Stable small amount of blood in the left lateral ventricle.  
Stable 
ventricular size. 
2. Previously noted left subarachnoid hemorrhage is no longer 
seen. 
3. No new intracranial hemorrhage. 
4. Left zygomaticomaxillary complex and orbital wall fractures 
are again 
partially visualized. 

 
Brief Hospital Course:
___ female on Pradaxa for afib who sustained a fall from 
standing. Imaging notable for multiple facial fractures and 
subdural hematoma. Neurosurgery was consulted and recommended 
holding pradaxa for ___ weeks, frequent neuro exams, and repeat 
head CT. Plastics was consulted for the facial fractures and 
recommended sinus precautions and outpatient follow-up, no 
surgery. Opthalmology was also consulted due to orbital 
fractures and examined the patient for any globe injury, which 
there was none. Subconjunctival hemorrhage was noted and will 
resolve in a few weeks. 

Repeat head CT showed stable subdural and subarachnoid as well 
as a new small amount of blood layering in the left lateral 
ventricle. The patient remained neurologically intact (at 
baseline mental status with dementia). Six hours later, another 
head CT was obtained, which showed the bleeding to be stable and 
not expanding. 

Pain was well controlled. The patient voided without problem. 
During this hospitalization, the patient ambulated early and 
frequently, was adherent with respiratory toilet and incentive 
spirometry, and actively participated in the plan of care. The 
patient did not receive subcutaneous heparin due to her history 
of pradaxa use and concern for bleeding, however venodyne boots 
were used during this stay.

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled on tylenol.  The patient was discharged back to her 
assisted living. The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan. She would remain off of 
pradaxa until her neurosurgery follow-up with a repeat head CT 
in ___ weeks. She would also follow-up with the Plastic Surgery 
clinic. 

 
 
Medications on Admission:
Pradaxa    
Dose: 150mg Daily  Last Taken: ___ AM  Indication: afib
Atenolol 25mg Daily
Donepezil 5mg QHS
Prozac 10mg Daily
 
Discharge Medications:
  Acetaminophen 650 mg PO Q4H:PRN Pain - Mild   
  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line  
  Donepezil 5 mg PO QHS  
  FLUoxetine 10 mg PO DAILY  
  Metoprolol Succinate XL 50 mg PO DAILY  

  **Dabigatran Etexilate 150 mg PO DAILY 
  **ON HOLD UNTIL NEUROSURGERY FOLLOW-UP 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Left subarachnoid hemorrhage 
Left lateral ventricle hemorrhage
Trace subdural hematoma 
Left zygomatic maxillary complex and left orbital fractures

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted to ___ after a mechanical fall. You suffered 
facial fractures and a traumatic brain injury (TBI) which caused 
bleeding in your brain. Neurosurgery was consulted and 
recommended stopping your blood thinner Pradaxa for ___ weeks 
until your follow-up appointment and repeat head CT. Plastic 
Surgery was consulted for the facial fractures and recommended 
no acute surgical intervention, sinus precautions, and follow-up 
in 1 week. The Opthalmology doctor evaluated your vision due to 
the fractures of the bones around your eye, and did not find any 
other injury.

Your repeat head CT scan was stable and you are now medically 
cleared for discharge back to your facility. Please note the 
following instructions:

Return to the Emergency Department or see your own doctor right 
away if any problems develop, including the following:
• Persistent nausea or vomiting.
• Increasing confusion, drowsiness or any change in alertness.
• Loss of memory.
• Dizziness or fainting.
• Trouble walking or staggering.
• Worsening of headache or headache feels different.
• Trouble speaking or slurred speech.
• Convulsions or seizures. These are twitching or jerking 
movements of the eyes, arms, legs or body.
• A change in the size of one pupil (black part of your eye) as 
compared to the other eye.
• Weakness or numbness of an arm or leg.
• Stiff neck or fever.
• Blurry vision, double vision or other problems with your 
eyesight.
• Bleeding or clear liquid drainage from your ears or nose.
• Very sleepy (more than expected) or hard to wake up.
• Unusual sounds in the ear.
• Any new or increased symptoms

SINUS PRECAUTIONS:
[] Do not forcefully spit for several days.
[] Do not smoke for several days.
[] Do not use straws for several days.
[] Do not forcefully blow your nose for at least 2 weeks, even 
though your sinus may feel “stuffy” or there may be some nasal 
drainage.
[] Try not to sneeze; it will cause undesired sinus pressure. If 
you must sneeze, keep your mouth open.
[] Eat only soft foods for several days
[] Do not rinse vigorously for several days

 
Followup Instructions:
___